US04728654
Preparation of 8-methyl-6-[4-(N-n-propylcarbamoyloxy)phenyl]-2-(1H)-quinolone
A solution of 8-methyl-6-[4-hydroxyphenyl]-2-(1H)-quinolone (0.30 g) and n-propylisocyanate (0.5 cm3) was heated under reflux in THF (10 cm3) under nitrogen for 50 hours. Methanol (10 cm3) was then added to dissolve solid material, followed by silica (Merck "MK 60.9385" [Trade Mark]) (10 g), and the volatile material was removed in vacuo. The residue was placed on top of a silica column (Merck "MK 60.9385") and eluted with chloroform:methanol, 19:1. Combination and evaporation of appropriate fractions in vacuo gave a solid which was recrystallised from propan-2-ol to afford the title compound, m.p. 224°-228°, (0.28 g).

reactant | 8-methyl-6-[4-hydroxyphenyl]-2-(1H)-quinolone | 0.30 g | CC=1C=C(C=C2C=CC(NC12)=O)C1=CC=C(C=C1)O | C16H13NO2
reactant | n-propylisocyanate | 0.5 cm3 | C(CC)N=C=O | C4H7NO
reactant | Methanol | 10 cm3 | CO | CH4O
solvent | THF | 10 cm3 | C1CCOC1 | C4H8O
product | 8-methyl-6-[4-(N-n-propylcarbamoyloxy)phenyl]-2-(1H)-quinolone | CC=1C=C(C=C2C=CC(NC12)=O)C1=CC=C(C=C1)OC(NCCC)=O | C20H20N2O3
